US06670401B2
5-Chloro-2-fluoro-2-methanesulfonyl-1-trifluoromethylindan-1-ol
If 5-chloro-2-fluoro-2-methanesulfonylindan-1-one is, instead of methylmagnesium bromide, reacted with trifluoromethyltrimethylsilane and tetrabutylammonium fluoride in tetrahydrofuran, 5-chloro-2-fluoro-2-methyanesulfonyl-1-trifluoromethylindan-1-ol of molecular weight 332.7 (C11H9CIF4SO3); MS (ESI): 333.20 (MH+) is obtained.

reactant | 5-chloro-2-fluoro-2-methanesulfonylindan-1-one | ClC=1C=C2CC(C(C2=CC1)=O)(S(=O)(=O)C)F | C10H8ClFO3S
reactant | methylmagnesium bromide | C[Mg]Br
reactant | trifluoromethyltrimethylsilane | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Chloro-2-fluoro-2-methanesulfonyl-1-trifluoromethylindan-1-ol | ClC=1C=C2CC(C(C2=CC1)(O)C(F)(F)F)(S(=O)(=O)C)F | C11H9ClF4O3S
